US04022900
5-(2-Fluorobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline (M-68)
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (5.0 g) prepared as in Example 4 was dissolved in dry benzene (75 ml) and 0.5 g of dry potassium bicarbonate was added. A 0.1 mole excess of 2-fluorobenzoyl chloride was dissolved in dry benzene (75 ml) and this solution was added to the solution of the tetrahydroisoquinoline. A white precipitate formed immediately. The mixture was refluxed for 1 hour to insure that the reaction had gone to completion. The precipitate was collected by vacuum filtration and washed with 10% sodium carbonate solution followed by water. The washings were discarded and the remaining residue was recrystallized from ethyl acetate to yield 6.8 g of the desired product as white crystals, m.p. 112°-112.5° C.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 5.0 g | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | potassium bicarbonate | 0.5 g | C([O-])(O)=O.[K+]
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 5-(2-Fluorobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 6.8 g | FC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=CC=C1 | C17H17FN2O
